US04613609
1-[4-(4-Chlorophenyl)butyl]-3-methylimidazolium chloride
Combine 6.1 g (0.03 mole) 1-chloro-4-(4-chlorobutyl)benzene with 2.5 g (0.03 mole) 1-methyl-1H-imidazole and heat at 120° C., following the course of the reaction by thin-layer chromatography on silica gel (methanol: 1M sodium chloride, 95:5). At the completion of the reaction, cool and triturate with ether, collect the solid and recrystallize from 50 ml hot acetone to obtain the title compound.

reactant | 1-chloro-4-(4-chlorobutyl)benzene | 0.03 mole, 6.1 g | ClC1=CC=C(C=C1)CCCCCl | C10H12Cl2
reactant | 1-methyl-1H-imidazole | 0.03 mole, 2.5 g | CN1C=NC=C1 | C4H6N2
product | 1-[4-(4-Chlorophenyl)butyl]-3-methylimidazolium chloride | [Cl-].ClC1=CC=C(C=C1)CCCC[N+]1=CN(C=C1)C | InChI=1S/C14H18ClN2.ClH/c1-16-10-11-17(12-16)9-3-2-4-13-5-7-14(15)8-6-13;/h5-8,10-12H,2-4,9H2,1H3;1H/q+1;/p-1
